US07192950B2
3-(4-Benzyloxy-3-methoxy-phenyl)-propionamide
To a stirred solution of 3-(4-benzyloxy-3-methoxy-phenyl)-propionic acid (8.38 g, 29.30 mmol) in dry THF (110 ml), under nitrogen, was added TEA (4.5 ml, 32.33 mmol), and the resulting mixture was cooled to −10° C. before ethyl chloroformate (3.1 ml, 32.53 mmol) was added dropwise. After stirring at −10° C. (20 min), ammonium hydroxide (25% in water, 65 ml) in THF (65 ml) was added and the mixture was stirred at −15° C. for 30 min and then at RT for 1.5 h. The reaction mixture was concentrated in vacuo, extracted three times with CH2Cl2 and the combined organic extracts were washed with saturated aqueous NaHCO3 and brine. The organic phase was dried over anhydrous MgSO4, filtered and concentrated to give the title compound (8.40 g, 29.30 mmol, 100%) as a colorless solid. No further purification of the crude amide was necessary.

reactant | 3-(4-benzyloxy-3-methoxy-phenyl)-propionic acid | 29.30 mmol, 8.38 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCC(=O)O)OC | C17H18O4
reactant | ethyl chloroformate | 32.53 mmol, 3.1 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonium hydroxide | 65 ml | [OH-].[NH4+]
solvent | THF | 110 ml | C1CCOC1 | C4H8O
solvent | THF | 65 ml | C1CCOC1 | C4H8O
product | 3-(4-Benzyloxy-3-methoxy-phenyl)-propionamide | 29.30 mmol, 8.40 g, 100% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCC(=O)N)OC | C17H19NO3
